US06294668B1
(E)-(6R,7R)-3-[1-[1-[(3-Fluoro-4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-7-[2-(4-trifluoromethyl-phenylsulfanyl)-acetylamino)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate
With 66.8 mg (0.41 mmol) 1,1, -carbonyldiimidazole, 97.3 mg (0.41 mmol) 2-[4-(trifluoromethyl)phenylthiolacetic acid and 250.0 mg (0.37 mmol) (E)-(6R,7R)-7-amino-3-[1-[1-[(3-fluoro-4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate trifluoroacetate in 4 ml N,N-dimethylacetamide. The resulting solid was purified by column chromatography on MCI gel (75-150μ, Mitsubishi Kasei Corporation) with a gradient of water:acetonitrile (1:0, 4:1, 3:1, 2:1, 1:1). The organic solvent was stripped off at a rotary evaporator and the aqueous phase was freeze-dried.

reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(trifluoromethyl)phenylthiolacetic acid | FC(C1=CC=C(C=C1)C1=C(SC=C1)CC(=O)O)(F)F | C13H9F3O2S
reactant | (E)-(6R,7R)-7-amino-3-[1-[1-[(3-fluoro-4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate trifluoroacetate | 0.37 mmol, 250.0 mg | FC(C(=O)[O-])(F)F.N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1=CC=[N+](C=C1)CC(NC1=CC(=C(C=C1)O)F)=O)=O
solvent | N,N-dimethylacetamide | 4 ml | CN(C(C)=O)C | C4H9NO
product | (E)-(6R,7R)-3-[1-[1-[(3-Fluoro-4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-7-[2-(4-trifluoromethyl-phenylsulfanyl)-acetylamino)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate | FC=1C=C(C=CC1O)NC(=O)C[N+]1=CC=C(C=C1)CN1C(\C(\CC1)=C\C1=C(N2C([C@H]([C@H]2SC1)NC(CSC1=CC=C(C=C1)C(F)(F)F)=O)=O)C(=O)[O-])=O | C35H29F4N5O7S2
